US08975252B2
Potassium carbonate (207 mg), trimethylboroxin (175 μL) and bis(diphenylphosphino)ferrocene dichloropalladium (II) (40.8 mg) were added to a solution of tert-butyl {[4-bromo-1-(3-methoxypropyl)-1H-indol-3-yl]methyl}cyclopropylcarbamate (218 mg) in 1,4-dioxane (14.5 ml) and the mixture was stirred at 110° C. under argon atmosphere for 4 hours. After being cooled to room temperature, the reaction mixture was diluted with water and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium bicarbonate and saturated brine successively, dried over magnesium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane to n-hexane/ethyl acetate=1/1 to 1/4) to give tert-butyl cyclopropyl{[1-(3-methoxypropyl)-4-methyl-1H-indol-3-yl]methyl}carbamate (180 mg) as a yellow oil.

reactant | Potassium carbonate | 207 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxin | 175 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | tert-butyl {[4-bromo-1-(3-methoxypropyl)-1H-indol-3-yl]methyl}cyclopropylcarbamate | 218 mg | BrC1=C2C(=CN(C2=CC=C1)CCCOC)CN(C(OC(C)(C)C)=O)C1CC1 | C21H29BrN2O3
solvent | 1,4-dioxane | 14.5 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | bis(diphenylphosphino)ferrocene dichloropalladium (II) | 40.8 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | tert-butyl cyclopropyl{[1-(3-methoxypropyl)-4-methyl-1H-indol-3-yl]methyl}carbamate | 180 mg | C1(CC1)N(C(OC(C)(C)C)=O)CC1=CN(C2=CC=CC(=C12)C)CCCOC | C22H32N2O3
